US05308854
Step C: Preparation of 2-methoxy-3-amino-5-ethyl-6-methylpyridine
A solution of 2-methoxy-3-nitro-5-ethyl-6-methylpyridine (535 mg, 2.72 mmol) in methanol (8 mL) and tetrahydrofuran (8 mL) containing 5% palladium on carbon (83 mg) was hydrogenated at atmospheric pressure for 5 hours. The catalyst was filtered off the solvent evaporated to yield 436 mg (98%) of oily product.

reactant | 2-methoxy-3-nitro-5-ethyl-6-methylpyridine | 2.72 mmol, 535 mg | COC1=NC(=C(C=C1[N+](=O)[O-])CC)C | C9H12N2O3
solvent | methanol | 8 mL | CO | CH4O
solvent | tetrahydrofuran | 8 mL | O1CCCC1 | C4H8O
catalyst | palladium on carbon | 83 mg | [Pd] | Pd
product | 2-methoxy-3-amino-5-ethyl-6-methylpyridine | 436 mg, 98% | COC1=NC(=C(C=C1N)CC)C | C9H14N2O
